* LVS netlist generated with ICnet by 'egrvlsi07' on Tue Apr  2 2019 at 16:01:54

*
* Globals.
*
.global ground VDD

*
* Component pathname : $VLSI/Project/and
*
.subckt and  Y A B

        M6 Y N$54 ground ground nmos l=0.13u w=0.6u m=1
        M5 Y N$54 VDD VDD pmos l=0.13u w=1.35u m=1
        M4 N$54 B VDD VDD pmos l=0.13u w=1.35u m=1
        M3 N$54 A VDD VDD pmos l=0.13u w=1.35u m=1
        M2 N$29 B ground ground nmos l=0.13u w=1.2u m=1
        M1 N$54 A N$29 ground nmos l=0.13u w=1.2u m=1
.ends and

